US08372864B2
268 mg of N-[(1S,2R)-1-(3,5-difluorobenzyl)-2-hydroxy-3-({1-[3-(trifluoromethyl)phenyl]cyclopropyl}amino)propyl]-7-(2-cyanophenyl)-1-oxo-2-(1-propylbutyl)-1,2,3,4-tetrahydroisoquinoline-5-carboxamide are dissolved, under an argon atmosphere, in 5 cm3 of ethyl ether. 0.3 cm3 of a 4N solution of hydrochloric acid in dioxane is added, while stirring, at a temperature of 20° C. The reaction mixture precipitates. The supernatant is drawn off under vacuum, the residue is washed with 5 cm3 of isopropyl ether; this operation is reproduced three times then the residual medium is dried under vacuum at a temperature of 50° C. 230 mg of N-[(1S,2R)-1-(3,5-difluorobenzyl)-2-hydroxy-3-({1-[3-(trifluoromethyl)phenyl]cyclopropyl}amino)propyl]-7-(2-cyanophenyl)-1-oxo-2-(1-propylbutyl)-1,2,3,4-tetrahydroisoquinoline-5-carboxamide hydrochloride (1:1) are obtained in the form of a white powder.

reactant | N-[(1S,2R)-1-(3,5-difluorobenzyl)-2-hydroxy-3-({1-[3-(trifluoromethyl)phenyl]cyclopropyl}amino)propyl]-7-(2-cyanophenyl)-1-oxo-2-(1-propylbutyl)-1,2,3,4-tetrahydroisoquinoline-5-carboxamide | 268 mg | FC=1C=C(C[C@@H]([C@@H](CNC2(CC2)C2=CC(=CC=C2)C(F)(F)F)O)NC(=O)C=2C=3CCN(C(C3C=C(C2)C2=C(C=CC=C2)C#N)=O)C(CCC)CCC)C=C(C1)F | C44H45F5N4O3
reactant | hydrochloric acid | Cl | ClH
solvent | ethyl ether | 5 cm3 | C(C)OCC | C4H10O
solvent | dioxane | O1CCOCC1 | C4H8O2
product | N-[(1S,2R)-1-(3,5-difluorobenzyl)-2-hydroxy-3-({1-[3-(trifluoromethyl)phenyl]cyclopropyl}amino)propyl]-7-(2-cyanophenyl)-1-oxo-2-(1-propylbutyl)-1,2,3,4-tetrahydroisoquinoline-5-carboxamide hydrochloride | 230 mg | Cl.FC=1C=C(C[C@@H]([C@@H](CNC2(CC2)C2=CC(=CC=C2)C(F)(F)F)O)NC(=O)C=2C=3CCN(C(C3C=C(C2)C2=C(C=CC=C2)C#N)=O)C(CCC)CCC)C=C(C1)F | InChI=1S/C44H45F5N4O3.ClH/c1-3-8-34(9-4-2)53-17-14-36-37(21-29(22-38(36)42(53)56)35-13-6-5-10-28(35)25-50)41(55)52-39(20-27-18-32(45)24-33(46)19-27)40(54)26-51-43(15-16-43)30-11-7-12-31(23-30)44(47,48)49;/h5-7,10-13,18-19,21-24,34,39-40,51,54H,3-4,8-9,14-17,20,26H2,1-2H3,(H,52,55);1H/t39-,40+;/m0./s1
